US04906634
N-[4-[2-(Diethylamino)ethoxy]-3,5-dimethylphenyl]methanesulfonamide methanesulfonic acid salt
To 4.55 g (19.3 mmol) of 2-(4-amino-2,6-dimethylphenoxy)-N,N-diethylethanamine in 40 mL of acetonitrile add 3.40 g (19.5 mmol) of methanesulfonic anhydride. After the addition is complete, stir the reaction for 2 hours at 50° C. Remove the solvent in vacuo. Recrystallize the residue from acetone/ether to obtain the title compound.

reactant | 2-(4-amino-2,6-dimethylphenoxy)-N,N-diethylethanamine | 19.3 mmol, 4.55 g | NC1=CC(=C(OCCN(CC)CC)C(=C1)C)C | C14H24N2O
reactant | methanesulfonic anhydride | 19.5 mmol, 3.40 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | N-[4-[2-(Diethylamino)ethoxy]-3,5-dimethylphenyl]methanesulfonamide methanesulfonic acid salt | CS(=O)(=O)O.C(C)N(CCOC1=C(C=C(C=C1C)NS(=O)(=O)C)C)CC | InChI=1S/C15H26N2O3S.CH4O3S/c1-6-17(7-2)8-9-20-15-12(3)10-14(11-13(15)4)16-21(5,18)19;1-5(2,3)4/h10-11,16H,6-9H2,1-5H3;1H3,(H,2,3,4)
